US08808703B2
1,2-bis(2-iodoethoxy)ethane (1.0 eq) was mixed with triethyl phosphate (1 eq) then heated to 160° C. for 20 minutes by microwave. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 85-100% EtOAc/Hex to give diethyl 2-(2-(2-iodoethoxy)ethoxy)ethylphosphonate as a colorless oil.

reactant | 1,2-bis(2-iodoethoxy)ethane | 1.0 eq | ICCOCCOCCI | C6H12I2O2
reactant | triethyl phosphate | 1 eq | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | diethyl 2-(2-(2-iodoethoxy)ethoxy)ethylphosphonate | ICCOCCOCCP(OCC)(OCC)=O | C10H22IO5P
